US06211199B1
48.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine
Prepare by the method of Example 37.2 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine and 1-bromo-butan-2-one to give the title compound: Rf=0.30 (silica gel, 40% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | 1-bromo-butan-2-one | BrCC(CC)=O | C4H7BrO
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-oxobutyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC(CC)=O)C=CC=C3)C=C(C1OC)OC | C38H45F2N5O5
